US06599917B1
b) 2-Bromo-6-iodo-3-pyridyl Trifluoromethanesulfonate
19.7 g of N-phenyltrifluoromethanesulfonimide, 336 mg of 4-dimethylaminopyridine and 23.0 ml of triethylamine were added to a mixture of 16.5 g of 2-bromo-3-hydroxy-6-iodopyridine and 150 ml of dichloromethane at room temperature, followed by stirring at room temperature for 1.5 hours. Silica gel was added to the reaction solution and the solvent was removed. The residue was subjected to silica gel column chromatography using 5% ethyl acetate/hexane, to give 19.9 g of the target compound.

reactant | N-phenyltrifluoromethanesulfonimide | 19.7 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 23.0 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-3-hydroxy-6-iodopyridine | 16.5 g | BrC1=NC(=CC=C1O)I | C5H3BrINO
catalyst | 4-dimethylaminopyridine | 336 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-Bromo-6-iodo-3-pyridyl Trifluoromethanesulfonate | 19.9 g | FC(S(=O)(=O)OC=1C(=NC(=CC1)I)Br)(F)F | C6H2BrF3INO3S
